US07495104B2
[4-(Tert-butyl)phenyl]{4-[(6,7-dimethoxy-4-quinolyl)oxy]phenyl}-methanone (111 mg) and sodium boron hydride (76 mg) were added to ethanol (15 ml), and the mixture was stirred at room temperature for 3 hr. Water was added to the reaction solution, and the mixture was extracted with chloroform. The chloroform layer was dried over anhydrous sodium sulfate. Chloroform was removed by evaporation under the reduced pressure to give a crude which was then purified by thin-layer chromatography on silica gel using chloroform/ethyl acetate for development to give (4-tert-butylphenyl)-[4-(6,7-dimethoxy-4-quinolyloxy)phenyl]methanol (108 mg, yield 97%).

reactant | [4-(Tert-butyl)phenyl]{4-[(6,7-dimethoxy-4-quinolyl)oxy]phenyl}-methanone | 111 mg | C(C)(C)(C)C1=CC=C(C=C1)C(=O)C1=CC=C(C=C1)OC1=CC=NC2=CC(=C(C=C12)OC)OC | C28H27NO4
reactant | sodium boron hydride | 76 mg | B.[Na]
reactant | ethanol | 15 ml | C(C)O | C2H6O
solvent | Water | O | H2O
product | (4-tert-butylphenyl)-[4-(6,7-dimethoxy-4-quinolyloxy)phenyl]methanol | 108 mg, yield 97% | C(C)(C)(C)C1=CC=C(C=C1)C(O)C1=CC=C(C=C1)OC1=CC=NC2=CC(=C(C=C12)OC)OC | C28H29NO4
